US07872028B2
Step 3. tert-Butyl 3-(hydroxy(phenyl)methyl)pyrrolidine-1-carboxylate
To a stirred solution of tert-butyl 3-benzoylpyrrolidine-1-carboxylate (0.77 g, 2.8 mmol) in methanol (40 mL) was added granular NaBH4 (0.21 g, 5.6 mmol). The mixture was stirred at rt for 3 d and solvent was removed under reduced pressure. The residue was taken up in 5% aq HCl (50 mL) and extracted with ether (2×100 mL). The combined ether extracts were washed with satd aq NaHCO3 (25 mL) and dried over MgSO4. Removal of the solvent left tert-butyl 3-(hydroxy(phenyl)methyl)pyrrolidine-1-carboxylate (0.93 g, quant) as an oil.

reactant | tert-butyl 3-benzoylpyrrolidine-1-carboxylate | 2.8 mmol, 0.77 g | C(C1=CC=CC=C1)(=O)C1CN(CC1)C(=O)OC(C)(C)C | C16H21NO3
reactant | NaBH4 | 5.6 mmol, 0.21 g | [BH4-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
product | tert-Butyl 3-(hydroxy(phenyl)methyl)pyrrolidine-1-carboxylate | OC(C1CN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C16H23NO3
